US07192943B2
To a solution of N-[(5-amino-1-methyl-1H-pyrazol-4-yl)methyl]-N′-tritylethane-1,2-diamine (7.50 g) and triethylamine (2.86 g) in chloroform (100 ml) was added di-tert-butyl ({[(trifluoromethyl)sulfonyl]imino}-methylene)biscarbamate (11.05 g). The mixture was stirred at room temperature for 4 days. The reaction mixture was washed successively with 10% aqueous citric acid solution and brine, and the organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 3% methanol/chloroform to give N-[(5-amino-1-methyl-1H-pyrazol-4-yl)methyl]-N′,N″-bis(tert-butoxycarbonyl)-N-[2-(tritylamino)ethyl]guanidine (3.00 g) as a solid.

reactant | N-[(5-amino-1-methyl-1H-pyrazol-4-yl)methyl]-N′-tritylethane-1,2-diamine | 7.50 g | NC1=C(C=NN1C)CNCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H29N5
reactant | triethylamine | 2.86 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl ({[(trifluoromethyl)sulfonyl]imino}-methylene)biscarbamate | 11.05 g | FC(S(=O)(=O)N=C(NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O)(F)F | C12H20F3N3O6S
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[(5-amino-1-methyl-1H-pyrazol-4-yl)methyl]-N′,N″-bis(tert-butoxycarbonyl)-N-[2-(tritylamino)ethyl]guanidine | 3.00 g | NC1=C(C=NN1C)CN(C(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)CCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H47N7O4
